US06638929B2
4-(4-Chloro-2-fluorophenoxy)benzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile
A mixture of 0.59 mL (5.5 mmol) of 4-chloro-2-fluorophenol and 100 mg (1.78 mmol) of potassium hydroxide is heated until a homogeneous solution is formed. To this is added 245 mg (1.00 mmol) of 4-chlorobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile and the mixture is heated for 2 hours. Ethyl acetate is added and the solution is washed with 1N NaOH. The organic layer is dried over sodium sulfate, filtered and concentrated in vacuo. The solid is collected and recrystallized from ethyl acetate to give 195 mg (55%) of a light beige solid, mp 174-175° C.

reactant | 4-chloro-2-fluorophenol | 5.5 mmol, 0.59 mL | ClC1=CC(=C(C=C1)O)F | C6H4ClFO
reactant | potassium hydroxide | 1.78 mmol, 100 mg | [OH-].[K+]
reactant | 4-chlorobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile | 1.00 mmol, 245 mg | ClC1=C2C(=NC=C1C#N)C1=C(S2)C=CC=C1 | C12H5ClN2S
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-Chloro-2-fluorophenoxy)benzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile | 195 mg, 55% | ClC1=CC(=C(OC2=C3C(=NC=C2C#N)C2=C(S3)C=CC=C2)C=C1)F | C18H8ClFN2OS
